US08754089B2
A mixture of 2-(chloromethyl)-7-fluoro-4H-pyrido[1,2-a]pyrimidin-4-one (8.310 g, 39.09 mmol), N-bromosuccinimide (8.055 g, 42.99 mmol), and acetic acid (110.3 mL) was stirred at rt. After 6 h, the mixture was poured into water (300 mL) and the resulting precipitate was collected by filtration, washed with water (400 mL), and dried to give 3-bromo-2-(chloromethyl)-7-fluoro-4H-pyrido[1,2-a]pyrimidin-4-one as a brown solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.97 (1 H, td), 8.19 (1 H, ddd, J=9.9, 7.1, 2.9 Hz), 7.86-7.94 (1 H, m), 4.81 (2 H, s); Mass Spectrum (ESI) m/e=292.9 (M+1).

reactant | 2-(chloromethyl)-7-fluoro-4H-pyrido[1,2-a]pyrimidin-4-one | 39.09 mmol, 8.310 g | ClCC=1N=C2N(C(C1)=O)C=C(C=C2)F | C9H6ClFN2O
reactant | N-bromosuccinimide | 42.99 mmol, 8.055 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | acetic acid | 110.3 mL | C(C)(=O)O | C2H4O2
solvent | water | 300 mL | O | H2O
product | 3-bromo-2-(chloromethyl)-7-fluoro-4H-pyrido[1,2-a]pyrimidin-4-one | BrC1=C(N=C2N(C1=O)C=C(C=C2)F)CCl | C9H5BrClFN2O
